US08859111B2
Synthesis of 4,4′-bis(naphth-1-yl)-1,1′-dimethoxy-9,9′-spirobifluorene
25.5 g (120 mmol) of tripotassium phosphate in a mixture of 300 ml of toluene, 100 ml of dioxane and 400 ml of water, 913 mg (3 mmol) of tri-o-tolylphosphine and then 112 mg (0.5 mmol) of palladium(II) acetate are added to a well-stirred suspension of 26.7 g (50 mmol) of 4,4′-dibromo-1,1′-dimethoxy-9,9′-spirobifluorene and 22.4 g (130 mmol) of 1-naphthylboronic acid, and the mixture is subsequently heated under reflux for 16 h. After cooling, the precipitated solid is filtered off with suction, washed three times with 50 ml of toluene, three times with 50 ml of ethanol:water (1:1, v:v) and three times with 100 ml of ethanol and subsequently recrystallised three times from DMF (about 10 ml/g). Yield: 20 g (31 mmol), 65.0%, purity: 99.9% (HPLC).

reactant | tripotassium phosphate | 120 mmol, 25.5 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | tri-o-tolylphosphine | 3 mmol, 913 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4,4′-dibromo-1,1′-dimethoxy-9,9′-spirobifluorene | 50 mmol, 26.7 g | BrC1=CC=C(C=2C3(C4=CC=CC=C4C12)C1=CC=CC=C1C=1C(=CC=C(C13)OC)Br)OC | C27H18Br2O2
reactant | 1-naphthylboronic acid | 130 mmol, 22.4 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.5 mmol, 112 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 400 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4,4′-bis(naphth-1-yl)-1,1′-dimethoxy-9,9′-spirobifluorene | C1(=CC=CC2=CC=CC=C12)C1=CC=C(C=2C3(C4=CC=CC=C4C12)C1=CC=CC=C1C=1C(=CC=C(C13)OC)C1=CC=CC3=CC=CC=C13)OC | C47H32O2
